US05866684
0.1 g (0.1 mmol) of N2-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)-propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-N1-[1(S)-(dimethoxymethyl)propyl]-L-leucinamide was dissolved in3 ml of dichloromethane, 3 ml of trifluoroacetic acid and 90 mg of water and the mixture was stirred at room temperature for 30 minutes. The solution was diluted with 20 ml of toluene and the solvent was removed by evaporation. The resulting white solid was triturated with diethyl ether and filtered off. The solid was purified by RP-HPLC on a C18 Dynamax column (pore size 300 Å; column size 21.4 mm×50 mm). The elutiongradient comprised 90% SSA 10% SSB to 95% SSB 5% SSA over 8.5 minutes. After lyophilization overnight there were obtained 25 mg of 2(S)-[[N-[N-[N-[N-[N-(3-carboxypropionyl)-L-α-aspartyl]-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]butyraldehyde as a white foam. MS: m/e 819.5 [M+H]+.

reactant | N2-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)-propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-N1-[1(S)-(dimethoxymethyl)propyl]-L-leucinamide | 0.1 mmol, 0.1 g | C(C)(C)(C)OC(=O)CCC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC)C(OC)OC | C53H88N6O14
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 90 mg | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2(S)-[[N-[N-[N-[N-[N-(3-carboxypropionyl)-L-α-aspartyl]-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]butyraldehyde | 25 mg | C(=O)(O)CCC(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@H](C=O)CC | C39H58N6O13
